### PR TITLE
[Merged by Bors] - feat: introduce covarianceBilin

### PR DESCRIPTION
**Pull request by EtienneC30**
The `covarianceBilin` associated to a measure on a Hilbert space is the positive semidefinite continuous bilinear form which represents its covariance.
Also define the covariance operator of a measure.

---

- [x] depends on: #30417

From BrownianMotion

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by RemyDegenne** [comment]
Can you change the PR title and description to use the new name?

File: Mathlib/Probability/Moments/CovarianceBilin.lean [hunk 1]
```diff
@@ -0,0 +1,158 @@
...
+    covarianceBilin μ x y = covarianceBilin μ y x := by
+  rw [covarianceBilin_eq_covarianceBilinDual, covarianceBilinDual_comm,
+    covarianceBilin_eq_covarianceBilinDual]
+
+lemma covarianceBilin_self [CompleteSpace E] [IsFiniteMeasure μ] (h : MemLp id 2 μ) (x : E) :
+    covarianceBilin μ x x = Var[fun u ↦ ⟪x, u⟫_ℝ; μ] := by
+  rw [covarianceBilin_eq_covarianceBilinDual, covarianceBilinDual_self_eq_variance h]
+  rfl
+
+lemma covarianceBilin_apply_eq [CompleteSpace E] [IsFiniteMeasure μ] (h : MemLp id 2 μ) (x y : E) :
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments/CovarianceBilin.lean]:
```suggestion
lemma covarianceBilin_apply_eq_cov [CompleteSpace E] [IsFiniteMeasure μ] (h : MemLp id 2 μ) (x y : E) :
```

**Review by RemyDegenne — APPROVED** [review]
It looks good to me! But I am a coauthor, so I won't merge. I'm writing that in case another reviewer sees my comments above and assumes I take responsibility for reviewing this PR.

File: Mathlib/Probability/Moments/CovarianceBilin.lean [hunk 2]
```diff
@@ -1,3 +1,159 @@
...
+import Mathlib.Analysis.InnerProductSpace.Dual
+import Mathlib.MeasureTheory.SpecificCodomains.WithLp
 import Mathlib.Probability.Moments.CovarianceBilinDual
 
-deprecated_module (since := "2025-10-13")
+/-!
+# Covariance in Hilbert spaces
+
+Given a measure `μ` defined over a Banach space `E`, one can consider the associated covariance
+bilinear form which maps `L₁ L₂ : StrongDual ℝ E` to `cov[L₁, L₂; μ]`. This is called
```
Comment (kex-y) [inline Mathlib/Probability/Moments/CovarianceBilin.lean:14]:
```suggestion
bilinear form which maps `L₁ L₂ : StrongDual ℝ E` to `cov[L₁, L₂; μ]`. This is called
```
Has this notation been implemented? I can't seem to find it.

Comment (RemyDegenne) [reply Mathlib/Probability/Moments/CovarianceBilin.lean:14]: https://github.com/leanprover-community/mathlib4/blob/be9d1e42709f0c71f23bf54fdcea77c4058cd659/Mathlib/Probability/Moments/Covariance.lean#L41

**Comment by kex-y** [comment]
Could you also add the definition which allows you to view the covariance as a map $\mathcal{H} \to \mathcal{H}$. 

In general, it would be nice if we have the definition to view the covariance of measures on Banach spaces with finite second moment as a map $\mathcal{B}^* \to \mathcal{B}$ by defining $Cov(L) = \int x L(x) d\mu$ and show that the two definitions coincide for Hilbert spaces but this would probably be a different PR.

**Comment by EtienneC30** [comment]
> Could you also add the definition which allows you to view the covariance as a map H → H .

Which map are you referring to? Something like $Cov(x) = \int \langle x, y \rangle \cdot y \\; \mu(\mathrm dy)$? Why is it useful?

**Comment by kex-y** [comment]
Viewing the covariance this way is quite useful for constructing Gaussian measures. For Gaussian measures on a Hilbert space $\mathcal{H}$, if you view the covariance as an operator $C : \mathcal{H} \to \mathcal{H}$, it should be trace class and the trace would be the second moment of the measure. The converse is also true, i.e. if you have a trace class operator on $\mathcal{H}$, then you can construct an Gaussian measure on $\mathcal{H}$ with that covariance. 

More generically, viewing the covariance as a map $C : \mathcal{B}^* \to \mathcal{B}$, the Cameron-Martin space is simply the linear closure of the range of $C$.

**Comment by kex-y** [comment]
To define it on Hilbert space, I would think to define by viewing the covariance first as $\mathcal{H} \to \mathcal{H}^{**}$ and then use reflexivity. The definition using $\int \langle x, y\rangle y \mu(d y)$ requires that $\mu$ has finite second moment which is more restrictive.

**Comment by EtienneC30** [comment]
It looks like what you are talking about is roughly `uncenteredCovarianceBilinDual µ L` ([ProbabilityTheory.uncenteredCovarianceBilinDual](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Probability/Moments/CovarianceBilinDual.html#ProbabilityTheory.uncenteredCovarianceBilinDual)) in the general case of Banach spaces. But it does require that `µ` has a second moment to make sense, how would you define it without this restriction?

**Comment by kex-y** [comment]
You're right. I forgot that `uncenteredCovarianceBilinDual` already requires finite second moment. In that case, it is equivalent to define using reflexivity or to use the integral. I suppose it is better to use the latter since we probably should define it first for Banach spaces and compose it with the map $x \mapsto \langle x, \cdot\rangle$ in the Hilbert space case. This is of course out of scope for this PR.

**Comment by EtienneC30** [comment]
In the end I went for the definition using duality to make things easier, but it looks a bit weird to have it for Hilbert spaces and not Banach spaces.

**Comment by kex-y** [comment]
Thanks! 
maintainer merge

File: Mathlib/Probability/Moments/CovarianceBilin.lean [hunk 3]
```diff
@@ -1,3 +1,209 @@
...
+  rw [covarianceBilin_eq_covarianceBilinDual, covarianceBilinDual_self_eq_variance h]
+  rfl
+
+lemma covarianceBilin_apply_eq_cov [CompleteSpace E] [IsFiniteMeasure μ]
+    (h : MemLp id 2 μ) (x y : E) :
+    covarianceBilin μ x y = cov[fun u ↦ ⟪x, u⟫, fun u ↦ ⟪y, u⟫; μ] := by
+  rw [covarianceBilin_eq_covarianceBilinDual, covarianceBilinDual_eq_covariance h]
+  rfl
+
+lemma covarianceBilin_real {μ : Measure ℝ} [IsFiniteMeasure μ] (h : MemLp id 2 μ) (x y : ℝ) :
```
Comment (sgouezel) [inline Mathlib/Probability/Moments/CovarianceBilin.lean]: Can you drop `h` in this one and the next one?

File: Mathlib/Probability/Moments/CovarianceBilin.lean [hunk 4]
```diff
@@ -1,3 +1,209 @@
...
+  simp only [covarianceBilin_apply_eq_cov h, RCLike.inner_apply, conj_trivial, mul_comm]
+  rw [covariance_mul_left, covariance_mul_right, ← mul_assoc, covariance_self aemeasurable_id']
+  rfl
+
+lemma covarianceBilin_real_self {μ : Measure ℝ} [IsFiniteMeasure μ] (h : MemLp id 2 μ) (x : ℝ) :
+    covarianceBilin μ x x = x ^ 2 * Var[id; μ] := by
+  rw [covarianceBilin_real h, pow_two]
+
+@[simp]
+lemma covarianceBilin_self_nonneg [CompleteSpace E] [IsFiniteMeasure μ] (x : E) :
```
Comment (sgouezel) [inline Mathlib/Probability/Moments/CovarianceBilin.lean]: I don't think you need completeness here (or in `covarianceBilinDual_self_nonneg`): you're looking at the integral of a square in all cases, whether the space is complete or not.

File: Mathlib/Probability/Moments/CovarianceBilin.lean [hunk 5]
```diff
@@ -1,3 +1,209 @@
...
+    all_goals exact fun i ↦ (hX i).const_mul _
+  any_goals exact Measurable.aestronglyMeasurable (by fun_prop)
+  · fun_prop
+  · exact (memLp_map_measure_iff aestronglyMeasurable_id (by fun_prop)).2 (MemLp.of_eval_piLp hX)
+
+section covarianceOperator
+
+variable [CompleteSpace E]
+
+/-- The covariance operator of the measure `μ`. -/
```
Comment (sgouezel) [inline Mathlib/Probability/Moments/CovarianceBilin.lean]: Could you recall mathematically what this is? (There is a subtlety here that you should insist on, since you're using `uncenteredCovarianceBilinDual`)

Comment (EtienneC30) [reply Mathlib/Probability/Moments/CovarianceBilin.lean]: I dropped all the assumptions you mentioned. Let me know if you're not satisfied with the docstring I added for `covarianceOperator`.

File: Mathlib/Probability/Moments/CovarianceBilin.lean [hunk 6]
```diff
@@ -1,3 +1,218 @@
...
+section covarianceOperator
+
+variable [CompleteSpace E]
+
+/-- The covariance operator of the measure `μ`. This is the bounded operator `F : E →L[ℝ] E`
+associated to the continuous bilinear form `B : E →L[ℝ] E →L[ℝ] ℝ` such that
+`B x y = ∫ z, ⟪x, z⟫ * ⟪y, z⟫ ∂μ` (see `covarianceOperator_inner`). Namely we have
+`B x y = ⟪F x, y⟫`.
+
+Note that the bilinear form `B` is the _uncentered_ covariance bilinear form associatied to the
```
Comment (sgouezel) [inline Mathlib/Probability/Moments/CovarianceBilin.lean]:
```suggestion
Note that the bilinear form `B` is the _uncentered_ covariance bilinear form associated to the
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

**Comment by EtienneC30** [comment]
Thanks to everyone who reviewed!
bors merge
